US05990142
17C Methyl 1-(4-phenylbutyl)-3-formylindole-5-carboxylate
A solution of methyl 3-formylindole-5-carboxylate (2.234 g, 11.0 mmol) and potassium tert-butoxide (1.259 g, 11.2 mmol) in dry N,N-dimethylformamide (50 ml) was added with 1-bromo-4-phenylbutane (2.385 g, 11.2 mmol) and left under stirring at room temperature for 18 h. After that the solvent was evaporated off under reduced pressure, the resulting residue was partitioned between a NaCl saturated solution (50 ml) and chloroform (50 ml) and the aqueous phase was extracted with chloroform (3×50 ml). After drying and evaporating off the solvent under reduced pressure, a crude was obtained which was purified by chromatography through a silica gel column, eluting with n-hexane:ethyl acetate, 70:30, thereby obtaining 2.847 g of the title compound (87% yield).

reactant | methyl 3-formylindole-5-carboxylate | 11.0 mmol, 2.234 g | C(=O)C1=CNC2=CC=C(C=C12)C(=O)OC | C11H9NO3
reactant | potassium tert-butoxide | 11.2 mmol, 1.259 g | CC(C)([O-])C.[K+]
reactant | 1-bromo-4-phenylbutane | 11.2 mmol, 2.385 g | BrCCCCC1=CC=CC=C1 | C10H13Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Methyl 1-(4-phenylbutyl)-3-formylindole-5-carboxylate | 2.847 g, 87% yield | C1(=CC=CC=C1)CCCCN1C=C(C2=CC(=CC=C12)C(=O)OC)C=O | C21H21NO3
